US06362195B1
G. 6[-2-Fluoro-4-(pyrrolidin-3-yl)-phenyl]-pyridin-2-ylamine
To a 25 mL round-bottomed flask equipped with N2 inlet were added 160 mg (0.59 mmol) 6-[2-fluoro-4-(2-oxo-pyrrolidin-3-yl)-phenyl]-pyridin-2-ylamine and 8 mL dry tetrahydrofuran. The solution was cooled to −70° C., and 5.9 mL (5.9 mmol) of a 1.0 M solution was lithium aluminum hydride in tetrahydrofuran was added. The reaction was warmed to room temperature and stirred 2 days. The reaction was carefully quenched with dilute aqueous sodium hydroxide solution, then taken up in ethyl acetate and aqueous sodium hydroxide solution, and the combined organic layer washed with water, dried over sodium sulfate, and evaporated to afford a crude oil, which was used directly in the next step.

reactant | 6-[2-fluoro-4-(2-oxo-pyrrolidin-3-yl)-phenyl]-pyridin-2-ylamine | 0.59 mmol, 160 mg | FC1=C(C=CC(=C1)C1C(NCC1)=O)C1=CC=CC(=N1)N | C15H14FN3O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 6[-2-Fluoro-4-(pyrrolidin-3-yl)-phenyl]-pyridin-2-ylamine | FC1=C(C=CC(=C1)C1CNCC1)C1=CC=CC(=N1)N | C15H16FN3
